US07501406B2
Mixture [(R)-1-(2,4-Dimethoxy-benzyl)-2,6-dioxo-azepan-3-yl]-carbamic acid tert-butyl ester; Compound with [(R)-1-(2,4-dimethoxy-benzyl)-2,5-dioxo-azepan-3-yl]-carbamic acid tert-butyl ester
[(R)-1-(2,4-Dimethoxy-benzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl]-carbamic acid tert-butyl ester (5.4 g, 14.3 mmol) was dissolved in DMF/water (10:1 v/v) and then Pd(II)Cl2 (1 g, 5.7 mmol) and Cu(I)Cl (7.2 g, 72.4 mmol) were added. The reaction mixture was evacuated and saturated with O2 and then heated at 50° C. for 48 h. Further additions of Pd(II)Cl2 (3× 0.4 equiv.) were used during the reaction. The reaction mixture was diluted with water (400 ml) and filtered over Celite. The filtrate was extracted with ethyl acetate (5×) and the combined organic extracts were washed with NaHCO3 solution, 1 M KHSO4 solution, brine, dried (MgSO4.2H2O), filtered, concentrated under reduce pressure and purified over silica gel (ethyl acetate/n-heptane 1:2->1:1) to yield a mixture of [(R)-1-(2,4-dimethoxy-benzyl)-2,6-dioxo-azepan-3-yl]-carbamic acid tert-butyl ester and [(R)-1-(2,4-dimethoxy-benzyl)-2,5-dioxo-azepan-3-yl]-carbamic acid tert-butyl ester in a 1:2 ratio: white solid 3.8 g (67%);

reactant | [(R)-1-(2,4-Dimethoxy-benzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl]-carbamic acid tert-butyl ester | 14.3 mmol, 5.4 g | C(C)(C)(C)OC(N[C@H]1C(N(CC=CC1)CC1=C(C=C(C=C1)OC)OC)=O)=O | C20H28N2O5
reactant | [(R)-1-(2,4-dimethoxy-benzyl)-2,6-dioxo-azepan-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1C(N(CC(CC1)=O)CC1=C(C=C(C=C1)OC)OC)=O)=O | C20H28N2O6
reactant | [(R)-1-(2,4-dimethoxy-benzyl)-2,5-dioxo-azepan-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1C(N(CCC(C1)=O)CC1=C(C=C(C=C1)OC)OC)=O)=O | C20H28N2O6
solvent | DMF water | CN(C)C=O.O
solvent | water | 400 ml | O | H2O
product | [(R)-1-(2,4-Dimethoxy-benzyl)-2,6-dioxo-azepan-3-yl]-carbamic acid tert-butyl ester; Compound with [(R)-1-(2,4-dimethoxy-benzyl)-2,5-dioxo-azepan-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1C(N(CCC(C1)=O)CC1=C(C=C(C=C1)OC)OC)=O)=O.C(C)(C)(C)OC(N[C@H]1C(N(CC(CC1)=O)CC1=C(C=C(C=C1)OC)OC)=O)=O | 2C20H28N2O6
